US09278985B2
Preparation 43: 5-Fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole
To a round bottom flask, 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.424 g, 5.61 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.342 g, 0.467 mmol), and potassium acetate (0.917 g, 9.34 mmol) were charged as solids. The flask was sealed, and pumped and purged 3× with inert gas. Then 6-bromo-5-fluoro-1H-indole (1.0 g, 4.67 mmol) in dioxane (15.57 mL) was added. The reaction was stirred and warmed to an internal temperature of 85° C. After 18 h the reaction mixture was cooled and filtered through a pad of Celite, washing with excess ethyl acetate. The filtrate was diluted with water and partitioned. The aqueous layer was extracted with ethyl acetate (3×15 mL). The combined organics were dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified using a Teledyne ISCO purification system with a gradient eluent system of ethyl acetate and hexanes to yield the title compound as a peach-colored solid (656 mg, 54%): 1H NMR (400 MHz, DMSO-d-6) δ 1.31 (s, 12H), 6.42 (ddd, J=2.9, 1.9, 0.9 Hz, 1H), 7.22 (d, J=10.5 Hz, 1H), 7.52 (t, J=2.8 Hz, 1H), 7.69 (d, J=4.8 Hz, 1H), 11.24 (s, 1H); 19F NMR (376 MHz, DMSO-d6) δ −116.07; ESIMS m/z 262.0 ([M+H]+), 260.0 ([M−H]−).

reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.61 mmol, 1.424 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 9.34 mmol, 0.917 g | C(C)(=O)[O-].[K+]
reactant | 6-bromo-5-fluoro-1H-indole | 4.67 mmol, 1.0 g | BrC1=C(C=C2C=CNC2=C1)F | C8H5BrFN
solvent | dioxane | 15.57 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.467 mmol, 0.342 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 656 mg, 54% | FC=1C=C2C=CNC2=CC1B1OC(C(O1)(C)C)(C)C | C14H17BFNO2
